US03959300
1,2,3,4,8,9-hexahydropyrido[4', 3':2,3] indolo[1,7-ab][1]benzazepine (formula 4)
To a mixture of 4.5 g of N-nitrosoiminodibenzyl (5-nitroso-10,11-dihydro-5H-dibenz[b,f]azepine), 6.0 g. of 4-piperidone hydrochloride and 6.5 g. of zinc dust in 30 ml. of absolute ethanol 12 ml. of glacial acetic acid are added dropwise, with constant stirring. Occasional cooling in an icebath is required to maintain the temperature at 20°-25° during the course of the reaction. After a little over 4 hours, the unchanged zinc is filtered off, washed with a minimum of absolute ethanol, and to the combined filtrate and wash there is added with stirring 8 ml. of concentrated sulfuric acid in 50 ml. of absolute ethanol. Stirring is continued while the mixture is warmed for about ten minutes, until the alcohol begins to reflux. It is then cooled down again; the inorganic insolubles are filtered off, and approximately 500 ml. of water is added to the filtrate, resulting in a voluminous white precipitate. The whole mixture is extracted with ether, and the residual aqueous phase is warmed up to transform the precipitate into granular solids, which are then filtered off and redissolved in approximately 600 ml. aqueous acetic acid. Some warming is required to completely dissolve all material. On treating this solution with 3N aqueous ammonia, the title compound is obtained as a tan-white granular solid, m.p. 134°-137°.

reactant | N-nitrosoiminodibenzyl (5-nitroso-10,11-dihydro-5H-dibenz[b,f]azepine) | 4.5 g | N(=O)N=C(C1=CC=CC=C1)C1=C(C=CC=2N(C3=C(CCC21)C=CC=C3)N=O)CC3=CC=CC=C3 | C28H22N4O2
reactant | 4-piperidone hydrochloride | Cl.N1CCC(CC1)=O
reactant | ethanol | 12 ml | C(C)O | C2H6O
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3,4,8,9-hexahydropyrido[4', 3':2,3] indolo[1,7-ab][1]benzazepine | C1CCCC=2C=CC=3C=4N(C21)C2=C(C4CCC3)C=NC=C2 | C19H18N2
